US07727952B2
(Hormonal Intervention and Serum Testosterone Assay)
Male AR-97Q mice and their normal littermates were castrated or sham-operated via the abdominal route under ketamine-xylazine anesthesia (50 mg/kg ketamine and 10 mg/kg xylazine, i.p.) at 4 weeks of age. Female AR-97Q mice and their littermates were subcutaneously injected 20 μg of testosterone enanthate dissolved in 20 μl of sesame oil weekly from 4 weeks of age until the end of the analysis. The control mice were given the same amount of sesame oil.

reactant | ketamine | CNC1(CCCCC1=O)C=2C=CC=CC2Cl | C13H16ClNO
reactant | xylazine | CC=1C=CC=C(C1NC2=NCCCS2)C | C12H16N2S
reactant | testosterone enanthate | 20 μg | CCCCCCC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C26H40O3
product | Testosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
